US07777042B2
(S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid {(S)-1-benzyl-2-[(E)-2-methylamino-phenylimino]-ethyl}-amide
PyBOP (0.11 g, 0.22 mmoles) and triethylamine (0.076 mL, 0.55 mmoles) were added to a room temperature solution of (S)-1-(3-trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid (0.074 g, 0.22 mmol) in CH2Cl2 (5 mL). After stirring at room temperature for 20 min, a solution of N-[(S)-2-amino-3-phenyl-prop-(E)-ylidene]-N′-methyl-benzene-1,2-diamine (0.052 g, 0.22 mmoles) in CH2Cl2 (5 mL) was added, and the resulting mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with CH2Cl2 (100 mL) and washed with saturated aqueous NaHCO3 (100 mL) and brine (100 mL). The organic layer was dried (MgSO4) and concentrated in vacuo to give a yellow oil. Purification of the residue by flash chromatography on silica gel, eluting with 10-50% EtOAc/heptane afforded 0.078 g (64%) of the title compound as a colorless powder: ES+ LC/MS m/e 557 (M+H), RT=2.92 min; 1H NMR CDCl3: δ9.99 (bd s, 1), 8.05 (s, 1), 7.94 (d, 1, J=8.0 Hz), 7.83 (d, 1, J=7.9 Hz), 7.62 (t, 1, J=7.9 Hz), 7.23-7.56 (m, 8), 7.00 (d, 1, J=7.5 Hz), 5.45 (m, 1), 4.40 (bd s, 1), 3.72 (dd, 1, J=14.5, 5.1 Hz), 3.54 (d, 1, J=14.1 Hz), 3.44 (dd, 1, J=14.5, 10.8 Hz), 2.13-2.26 (m, 2), 1.37 (m, 1), 1.22 (m, 1), 0.92-1.10 (m, 4).

reactant | PyBOP | 0.22 mmoles, 0.11 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.55 mmoles, 0.076 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-1-(3-trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid | 0.22 mmol, 0.074 g | FC(C=1C=C(C=CC1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)O)(F)F | C13H14F3NO4S
reactant | N-[(S)-2-amino-3-phenyl-prop-(E)-ylidene]-N′-methyl-benzene-1,2-diamine | 0.22 mmoles, 0.052 g | N[C@H](\C=N\C=1C(=CC=CC1)NC)CC1=CC=CC=C1 | C16H19N3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid {(S)-1-benzyl-2-[(E)-2-methylamino-phenylimino]-ethyl}-amide | 0.078 g, 64% | C(C1=CC=CC=C1)[C@@H](/C=N/C1=C(C=CC=C1)NC)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C29H31F3N4O3S
